US05814653
6-(4-chlorobenzenesulfonyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
Beginning with 10.4 mg (0.046 mMol) 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole and 14.1 mg (0.067 mMol) 4-chlorobenzenesulfonyl chloride, 11.5 mg (64%) of the title compound were recovered as a light beige solid.

reactant | 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.046 mMol, 10.4 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | 4-chlorobenzenesulfonyl chloride | 0.067 mMol, 14.1 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 6-(4-chlorobenzenesulfonyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 11.5 mg, 64% | ClC1=CC=C(C=C1)S(=O)(=O)NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C20H22ClN3O2S
